US08048881B2
86.1. 6-methyl-2-phenyl-pyrimidine-4-carboxylic acid methyl ester
2-chloro-6-methyl-pyrimidine-4-carboxylic acid methyl ester (930 mg), phenylboronic acid (610 mg), tetrakis(triphenylphosphine)palladium (265 mg) and potassium phosphate (2.12 g) were dissolved in anhydrous dioxane (25 ml) under argon. The mixture was refluxed overnight and worked up with water/EA. The org. phases were dried (Na2SO4) and evaporated off. Column chromatography (EA/Hept 1/5) offered 875 mg of the desired compound.

reactant | 2-chloro-6-methyl-pyrimidine-4-carboxylic acid methyl ester | 930 mg | COC(=O)C1=NC(=NC(=C1)C)Cl | C7H7ClN2O2
reactant | phenylboronic acid | 610 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 2.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water EA | O.CC(OCC)=O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 265 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-methyl-2-phenyl-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1)C)C1=CC=CC=C1 | C13H12N2O2
